US05175166
Benzyl 1,4,5,6-Tetrahydropyrimidine-5-carboxylate Hydrochloride
1,4,5,6-Tetrahydropyrimidine-5-carboxylic acid hydrochloride (1.0 g, 6.1 mmol) was suspended in dry benzyl alcohol (20 ml). To the mixture was added thionyl chloride (0.76 g, 6.39 mmol) and the resulting mixture was heated in an oil bath at 80° C. for 24 h. The clear solution was poured to anhydrous ethyl ether (100 ml) to induce precipitation. The white solids were collected and crystallized from methanol/THF to give 1.18 g (76%) of product (mp 113°-114° C.). 300 MHz nmr indicated the product. Microanalysis calc.: C 56.58, H 5.89, N 11.00; found: C 56.34, H 6.03, N 11.19.

reactant | 1,4,5,6-Tetrahydropyrimidine-5-carboxylic acid hydrochloride | 6.1 mmol, 1.0 g | Cl.N1C=NCC(C1)C(=O)O
reactant | thionyl chloride | 6.39 mmol, 0.76 g | S(=O)(Cl)Cl | Cl2OS
reactant | ethyl ether | 100 ml | C(C)OCC | C4H10O
reactant | benzyl alcohol | 20 ml | C(C1=CC=CC=C1)O | C7H8O
product | Benzyl 1,4,5,6-Tetrahydropyrimidine-5-carboxylate Hydrochloride | 1.18 g, 76% | Cl.N1C=NCC(C1)C(=O)OCC1=CC=CC=C1 | InChI=1S/C12H14N2O2.ClH/c15-12(11-6-13-9-14-7-11)16-8-10-4-2-1-3-5-10;/h1-5,9,11H,6-8H2,(H,13,14);1H
